US06174881B1
60 ml of 25% aqueous ammonia solution and 30 ml of methanol were added to a suspension of 3.0 g of 7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2(1H)-thione in 200 ml of tetrahydrofuran. The mixture was stirred at room temperature for 16 h., with the solution which formed being concentrated to about 50 ml in a vacuum. The crystals were filtered off, washed with water, dried, stirred in 25 ml of dioxan at 100° C., cooled and filtered off. There were obtained 2.35 g of 2-amino-7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine of m.p. 228-229° C.

reactant | ammonia | 60 ml | N | H3N
reactant | methanol | 30 ml | CO | CH4O
reactant | 7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine-2(1H)-thione | 3.0 g | IC=1C=CC2=C(C(=NCC(N2)=S)C2=NC=CC=C2)C1 | C14H10IN3S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-amino-7-iodo-5-(2-pyridyl)-3H-1,4-benzodiazepine | 2.35 g | NC1=NC2=C(C(=NC1)C1=NC=CC=C1)C=C(C=C2)I | C14H11IN4
